US04680301
To a cooled mixture of 143 g of 6-amino-2-tert-butyl-5-morpholinobenzothiazole and 168 g of sodium bicarbonate in 200 ml of CHCl3 is added 75 g of thiophosgene under stirring. The stirring is continued at ambient temperature for 10 hours. The solide are filtered off and the filtrate is evaporated. The solid thus obtained is dissolved in hexane and filtered through a silica gel column. The filtrate is evaporated to give 2-tert-butyl-6-isothiocyanato-5-[morpholin-4-yl]benzothiazole melting at 141°-143°.

reactant | 6-amino-2-tert-butyl-5-morpholinobenzothiazole | 143 g | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CCOCC1 | C15H21N3OS
reactant | sodium bicarbonate | 168 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 75 g | C(=S)(Cl)Cl | CCl2S
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
product | 2-tert-butyl-6-isothiocyanato-5-[morpholin-4-yl]benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCOCC2 | C16H19N3OS2
